US08058441B2
(b). 1-Acetyl-6-ethyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Acylation of 1,2-dihydro-6-ethyl-2,2,4-trimethylquinoline (800 mg) with acetyl chloride (3.5 ml) and a catalytic amount of N,N-dimethylaminopyridine in pyridine (25 ml) was performed according to the method described in example 37.

reactant | 1,2-dihydro-6-ethyl-2,2,4-trimethylquinoline | 800 mg | C(C)C=1C=C2C(=CC(NC2=CC1)(C)C)C | C14H19N
reactant | acetyl chloride | 3.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-6-ethyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)CC)C)(C)C | C16H23NO
